US08053440B2
To a solution of 2,6-dimethoxytoluene (50 g, 328.5 mmol) in ether (450 mL) was added freshly prepared dioxane dibromide in ether over 0.5 h. The mixture was stirred at room temperature for an additional 1.5 h and poured into a beaker containing water (500 mL). The aqueous layer was discarded and the ether layer was washed sequentially with water (2×500 mL), sodium bicarbonate (saturated aqueous) (2×500 mL), dried over sodium sulfate, and concentrated using a rotary evaporator to afford 76 g of 3-bromo-2,6-dimethoxytoluene as a colorless oil (100%). A cooling well was used to collect 300 mL of ammonia at −78° C., which was mixed with potassium (0.5 g) and ferric nitrate (0.5 g). Additional potassium (14.2 g, 364 mmol) was added at −78° C. portion-wise. The solution was stirred at −78° C. for 15 min. To this solution was slowly added 3-bromo-2,6-dimethoxytoluene (42 g, 182 mmol) in THF (100 mL). The resulting mixture was stirred at −78° C. for 3 h and then 0° C. for 1 h. The reaction was quenched by adding water (150 mL) and extracted with DCM (3×200 mL) to get a brown oil as the crude product. It was further purified by column chromatography to yield 22.1 g of 3,5-dimethoxy-4-methylaniline (73%). A solution of 3,5-dimethoxy-4-methylaniline (22.1 g, 132.3 mmol) in dioxane (380 mL) and water (380 mL) was mixed with potassium carbonate (45.6 g, 330.8 mmol) and (Boc)2O (34.6 g 158.8 mmol) and stirred at room temperature for 14 h. The reaction mixture was then extracted with DCM (3×100 mL) and concentrated using a rotary evaporator. The resulting solid residue was purified by column chromatography. A mixture of DCM-hexanes (20 mL-300 mL) was used to make a slurry and the solid was collected by filtration and washed with hexanes to provide 28.6 g of (3,5-dimethoxy-4-methyl-phenyl)-carbamic acid tert-butyl ester (81%). A solution of (3,5-dimethoxy-4-methyl-phenyl)-carbamic acid tert-butyl ester (28.6 g, 107.1 mmol) in carbon tetrachloride (450 mL) was mixed with NBS (19.05 g, 107.1 mmol) and AIBN (1.55 g, 9.37 mmol) and the mixture was stirred at 80° C. with the light on for 2 h. The reaction was quenched by adding water (150 mL) and extracted with DCM (3×100 mL), and concentrated to afford a solid residue. Further purification by column chromatography yielded 34.9 g of (2-bromo-3,5-dimethoxy-4-methyl-phenyl)-carbamic acid tert-butyl ester (94%). A solution of (2-bromo-3,5-dimethoxy-4-methyl-phenyl)-carbamic acid tert-butyl ester (34.9 g, 100.9 mmol) in carbon tetrachloride (450 mL) was mixed with NBS (21.5 g, 121.0 mmol) and AIBN (1.55 g, 9.37 mmol) and was stirred at 80° C. with the light on for 4 h. The reaction was then quenched by adding water (150 mL) and extracted with DCM (3×100 mL), and concentrated to afford a solid residue. Further purification by column chromatography yielded 39 g of (2-bromo-4-bromomethyl-3,5-dimethoxy-phenyl)-carbamic acid tert-butyl ester (91%). A solution of (2-bromo-4-bromomethyl-3,5-dimethoxy-phenyl)-carbamic acid tert-butyl ester (39 g, 91.8 mmol) in THF (600 mL) was mixed with morpholine (45 mL, 515.0 mmol) and stirred at room temperature for 7 h. The reaction was diluted with water (300 mL), extracted with DCM (3×200 mL), and concentrated using a rotary evaporator. The residue was further purified by column (SiO2, DCM/MeOH=20:1) to provide 35 g of (2-bromo-3,5-dimethoxy-4-morpholin-4-ylmethyl-phenyl)-carbamic acid tert-butyl ester (88%). A solution of (2-bromo-3,5-dimethoxy-4-morpholin-4-ylmethyl-phenyl)-carbamic acid tert-butyl ester (3 g, 6.94 mmol) in THF (150 mL) was mixed with NaH (0.333 g, 8.33 mmol) and stirred at room temperature for 1.5 h. The resulting mixture was cooled to −78° C. and mixed with nBuLi (3.33 mL, 8.33 mmol). The reaction was stirred for 1.5 h at −78° C. before addition of t-BuLi (8.16 mL, 13.88 mmol). The reaction was stirred at −78° C. for 1 h and carbon dioxide gas was then bubbled through for 8 h allowing the temperature to rise gradually to room temperature. The reaction was quenched by adding water (0.5 mL, 27.8 mmol) and concentrated using a rotary evaporator. The solid residue was made into slurry in minimal amount of MeOH and the solid was filtered off. The filtrate was then concentrated using a rotary evaporator and the solid was made into a slurry again in MeOH and filtered. After repeating two to three times, the filtrate was concentrated to yield 1.1 g of impure 6-tert-butoxycarbonylamino-2,4-dimethoxy-3-morpholin-4-ylmethyl-benzoic acid (40% crude yield).

reactant | (2-bromo-4-bromomethyl-3,5-dimethoxy-phenyl)-carbamic acid tert-butyl ester | 91.8 mmol, 39 g | C(C)(C)(C)OC(NC1=C(C(=C(C(=C1)OC)CBr)OC)Br)=O | C14H19Br2NO4
reactant | morpholine | 515.0 mmol, 45 mL | N1CCOCC1 | C4H9NO
solvent | THF | 600 mL | C1CCOC1 | C4H8O
solvent | water | 300 mL | O | H2O
product | (2-bromo-3,5-dimethoxy-4-morpholin-4-ylmethyl-phenyl)-carbamic acid tert-butyl ester | 35 g, 88% | C(C)(C)(C)OC(NC1=C(C(=C(C(=C1)OC)CN1CCOCC1)OC)Br)=O | C18H27BrN2O5
